US04496572
Hydrogen chloride gas was passed for 30 minutes through a stirred mixture of 2-methylbenzo[b]thiophene-7-carboxylic acid methyl ester (4.50 g), paraformaldehyde (1.23 g) and anhydrous zinc chloride (1.03 g) in chloroform (50 ml). The mixture was stirred at room temperature for 5 hours and then allowed to stand for 18 hours. The mixture was then washed several times with water and the organic layer was dried (Na2SO4) and evaporated. The residue was crystallised from chloroform/petrol (b.p. 60°-80°) to give 3-chloromethyl-2-methylbenzo[b]thiophene-7-carboxylic acid methyl ester (4.10 g), m.p. 125°-126°.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-methylbenzo[b]thiophene-7-carboxylic acid methyl ester | 4.50 g | COC(=O)C1=CC=CC2=C1SC(=C2)C | C11H10O2S
reactant | paraformaldehyde | 1.23 g | C=O | CH2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | zinc chloride | 1.03 g | [Cl-].[Zn+2].[Cl-]
product | 3-chloromethyl-2-methylbenzo[b]thiophene-7-carboxylic acid methyl ester | 4.10 g | COC(=O)C1=CC=CC2=C1SC(=C2CCl)C | C12H11ClO2S
